US04536505
A solution of 2.7 g of 3-[2-(ethoxycarbonyl)ethyl]-N-(3-pyridyl)indole in 50 ml of dry methylene chloride under nitrogen is cooled to -75° and 10.6 ml of 1.75M diisobutylaluminum hydride in toluene is added dropwise. The reaction is stirred for 8 minutes and quenched with 10 ml of water at -75°. Cooling is stopped and the layers are separated. The organic phase is washed with water, dried over potassium carbonate and evaporated to a solid which is recrystallized from ether-hexane to yield 3-(2-formylethyl)-N-(3-pyridyl)indole, m.p. 44°-45°.

reactant | 3-[2-(ethoxycarbonyl)ethyl]-N-(3-pyridyl)indole | 2.7 g | C(C)OC(=O)CCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C18H18N2O2
reactant | diisobutylaluminum hydride | 1.75M, 10.6 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(2-formylethyl)-N-(3-pyridyl)indole | C(=O)CCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C16H14N2O
